US09034866B2
Synthesis of 3-(2-chlorobenzyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide
A pressure tube containing a solution of ethyl 3-(2-chlorobenzyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (89 mg, 0.17 mmol) in methanolic ammonia (5 mL of 7.0M ammonia in methanol) was warmed to 44° C. for 36 hr. Evaporation of the reaction mixture furnished the title compound (86 mg, 0.17 mmol, 100%) as a colorless solid: 1H NMR (500 MHz, CDCl3) δ 1.63 (d, J=11.35 Hz, 1H), 2.81 (dd, J=7.72, 3.00 Hz, 2H), 3.14-3.23 (m, 1H), 3.54 (td, J=8.43, 4.26 Hz, 1H), 5.39 (br. s, 1H), 5.92 (s, 1H), 6.42 (d, J=7.57 Hz, 1H), 6.82 (d, J=8.83 Hz, 1H), 7.09-7.15 (m, 1H), 7.17-7.23 (m, 1H), 7.41 (d, J=0.95 Hz, 1H), 7.44-7.66 (m, 1H), 8.83 (d, J=6.94 Hz, 1H); M+1=530/532.

reactant | ethyl 3-(2-chlorobenzyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 0.17 mmol, 89 mg | ClC1=C(CN2C(=NC3=C2C2CC(C4=C3C=C(C(=C4)F)I)C2)C(=O)OCC)C=CC=C1 | C23H19ClFIN2O2
reactant | ammonia | 7.0M, 5 mL | N | H3N
product | 3-(2-chlorobenzyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide | 0.17 mmol, 86 mg, 100% | ClC1=C(CN2C(=NC3=C2C2CC(C4=C3C=C(C(=C4)F)I)C2)C(=O)N)C=CC=C1 | C21H16ClFIN3O
